US09034303B2
A mixture of 14.6 g (0.1 mol) of 8-quinolinol, 16 mL of 32% HCl in water, and 16 mL (0.1 mL) of 37% formaldehyde in water at 0° C. was treated with hydrogen chloride gas for 6 h. The solution was allowed to stand at room temperature for 2 h without stirring. The yellow solid obtained was collected on a filter, washed with 90% alcohol and dried under vacuum to give 5-chloromethyl-8-quinolinol hydrochloride A (19.0 g, 98%): 1H NMR (250 MHz, CDCl3, δ) 5.32 (s, 2H), 7.53 (m, 1H), 7.85 (m, 2H), 8.12 (m, 1H), 9.12 (m, 1H), 9.28 (m, 1H).

reactant | 8-quinolinol | 0.1 mol, 14.6 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | HCl | 16 mL | Cl | ClH
reactant | formaldehyde | 16 mL | C=O | CH2O
solvent | water | O | H2O
product | 5-chloromethyl-8-quinolinol hydrochloride | Cl.ClCC1=C2C=CC=NC2=C(C=C1)O | InChI=1S/C10H8ClNO.ClH/c11-6-7-3-4-9(13)10-8(7)2-1-5-12-10;/h1-5,13H,6H2;1H
